US04424231
(a) 6-{5-[2-Acetyl-3-(prop-2-enyloxy)phenoxy]pentyloxy}naphthalene-2-carboxylic acid
Ethyl 6-[5-(2-acetyl-3-hydroxyphenoxy)pentyloxy]naphthalene-2-carboxylate (1.85 g), potassium carbonate (0.59 g) and allyl bromide (0.74 ml) were stirred in dry dimethyl formamide (40 ml) for 20 hr. The mixture was diluted with water and extracted with ethyl acetate, which was washed with water, dried and evaporated to yield the ethyl ester of the sub-title compound (2.2 g) as a pale yellow solid. The ester (0.65 g) was hydrolysed by the method of Example 2f to give the title acid (0.36 g), mp 157°-157.5°.

reactant | Ethyl 6-[5-(2-acetyl-3-hydroxyphenoxy)pentyloxy]naphthalene-2-carboxylate | 1.85 g | C(C)(=O)C1=C(OCCCCCOC=2C=C3C=CC(=CC3=CC2)C(=O)OCC)C=CC=C1O | C26H28O6
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.74 ml | C(C=C)Br | C3H5Br
reactant | dimethyl formamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-{5-[2-Acetyl-3-(prop-2-enyloxy)phenoxy]pentyloxy}naphthalene-2-carboxylic acid | 2.2 g | C(C)(=O)C1=C(OCCCCCOC=2C=C3C=CC(=CC3=CC2)C(=O)O)C=CC=C1OCC=C | C27H28O6
